US09102654B2
3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-amine (5d)
To a 100 mL, 3-neck round bottom flask was charged 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine (2.40 g, 10.7 mmol), acetic acid (4 mL), ethanol (4.8 mL) and water (4.8 mL). The mixture was cooled to 5° C. and iron powder (2.98 g, 53.4 mmol) was added portionwise over ˜15 minutes. The reaction was allowed to stir at 20° C. for 18 hours and diluted to 50 mL with water. The mixture was filtered through Celite® and the filtrate was carefully basified with 50% sodium hydroxide solution. The resulting suspension was filtered through Celite® and the filtrate was extracted with ethyl acetate (3×20 mL). The organics were dried over sodium sulfate and concentrated to dryness to afford a tan colored solid, which was further dried under vacuum for 18 hours (2.2 g, quantitative): mp 145-147° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.95 (dd, J=2.6, 0.8 Hz, 1H), 8.45 (dd, J=4.7, 1.4 Hz, 1H), 8.08 (ddd, J=8.4, 2.7, 1.4 Hz, 1H), 7.91 (s, 1H), 7.49 (ddd, J=8.3, 4.7, 0.8 Hz, 1H), 4.43 (s, 2H); 13C NMR (101 MHz, DMSO-d6) δ 146.35, 138.53, 135.72, 132.09, 130.09, 124.29, 124.11, 114.09; EIMS m/z 194 ([M]+).

reactant | 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine | 10.7 mmol, 2.40 g | ClC1=NN(C=C1[N+](=O)[O-])C=1C=NC=CC1 | C8H5ClN4O2
reactant | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
reactant | ethanol | 4.8 mL | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | iron | 53.4 mmol, 2.98 g | [Fe] | Fe
solvent | water | 4.8 mL | O | H2O
product | 3-Chloro-1-(pyridin-3-yl)-1H-pyrazol-4-amine | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
